US08426420B2
viii) 4-[2-({5-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 1.00 g 4-(2-{[5-((R)-1-Carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-acetyl)-piperazine-1-carboxylic acid butyl ester in 40 ml DMF were added 521 μl DIPEA and 758 mg HATU. After 20 minutes 336 mg (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide were added and the reaction mixture stirred for 3 h. After evaporation of the solvent the crude product was dissolved in dichloromethane and extracted with aqueous LiCl (4% w/w), 0.1 M HCl and aqueous NaHCO3. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were immediately lyophilized to yield the pure product which was taken up in dichloromethane and washed once with aqueous NaHCO3. The residue obtained after evaporation of the solvent was lyophilized again to give the title compound. Yield: 517 mg MS (ES+): m/e=652.

reactant | 4-(2-{[5-((R)-1-Carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-acetyl)-piperazine-1-carboxylic acid butyl ester | 1.00 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)O[C@H](C)C(=O)O)C1=CC=CC=C1)=O | C24H31N5O7
reactant | DIPEA | 521 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 758 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide | 336 mg | C1(CCC1)NC(=O)[C@H]1NCCC1 | C9H16N2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-({5-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)O[C@@H](C(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)C1=CC=CC=C1)=O | C33H45N7O7
